US20010056105A1
(c) 4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)Phenol
A mixture of 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-napthylselanylethynyl)phenyl acetate (500 mg, 1.1 mmol) and potassium carbonate (160 mg, 1.1 mmol) in methanol (20 ml) is stirred for 24 h at room temperature and is then treated with ethyl ether and water. The organic phase is washed twice with water, dried over anhydrous magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The product is purified on a column of silica (ethyl acetate 20/heptane 80). 300 mg (66%) of a clear oil are obtained.

reactant | 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-napthylselanylethynyl)phenyl acetate | 1.1 mmol, 500 mg | C(C)(=O)OC1=CC=C(C=C1)C#C[Se]C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H26O2Se
reactant | potassium carbonate | 1.1 mmol, 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl)Phenol | 300 mg, 66% | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C#CC1=CC=C(C=C1)O | C23H26OSe
